US20010041802A1
N-methoxy-N-methyl-4-nitro-2′-methoxymethoxy-6′-methoxy-biphenyl-2-carboxamide
Butyllithium (8.28 ml. of 2.5M in hexane, 20.69 mmole) was added to a solution of 1-methoxy-3 methoxymethoxy benzene (3.62 g., 21.55 mmole, (T. Kaufman, R. Srivastava, R. Sindelar, J. Med. Chem. 1995, 38, 1437-1445) in. THF (15 mL) at −30° C. The solution was stirred at ambient temperature for 1 hour, cooled to at 0° C. and anhydrous zinc chloride beads (3.5 g, 25.67 mmole) added. The mixture was stirred for 2 hours at 25°. Then a solution of N-methoxy-N-methyl-2-bromo-5-nitrobenzamide (5.00 g, 17.24 mmole) dissolved in THF (20 mL) was added. Bis (triphenylphosphine) palladium dichloride (600 mg.) was added and the solution was stirred at 65° C. for 15 hours. After cooling, chloroform was added and the solution stirred with aqueous KHCO3. The precipitated zinc salts were filtered, the water layer removed and the organic layer dried (Na2SO4), filtered concentrated under reduced pressure and the residuepurified on silica gel eluting with 8% ethyl acetate in CH2Cl2 to provide the titled compound (5.68 g, 88% yield).

reactant | Butyllithium | 20.69 mmole, 2.5M, 8.28 ml | C(CCC)[Li]
reactant | 1-methoxy-3 methoxymethoxy benzene | COC1=CC(=CC=C1)OCOC | C9H12O3
reactant | N-methoxy-N-methyl-2-bromo-5-nitrobenzamide | 17.24 mmole, 5.00 g | CON(C(C1=C(C=CC(=C1)[N+](=O)[O-])Br)=O)C | C9H9BrN2O4
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
catalyst | Bis (triphenylphosphine) palladium dichloride | 600 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | N-methoxy-N-methyl-4-nitro-2′-methoxymethoxy-6′-methoxy-biphenyl-2-carboxamide | 5.68 g, 88% yield | CON(C(=O)C=1C(=CC=C(C1)[N+](=O)[O-])C1=C(C=CC=C1OC)OCOC)C | C18H20N2O7
